US04408053
3-(1-Allyl-4-piperidyl)-6-fluoro-1,2-benzisoxazole hydrochloride
A suspension of 4.95 g of 3-(4-piperidyl)-6-fluoro-1,2-benzisoxazole, 3.0 g of allyl bromide, 3.0 g of potassium carbonate and some crystals of potassium iodide in 70 ml of dimethylformamide was stirred under nitrogen at 85°-90° for 5 hrs. The reaction was cooled and added to 40 ml ethanol. Half-saturated sodium chloride, prepared by adding an equal volume of water to saturated sodium chloride solution was added. After 16 hrs, the crystals were filtered, washed with water and dried, yielding 3.4 g of base. The base was dissolved in 60 ml of ethanol and 1.5 ml conc hydrochloric acid. The mixture was heated to 50° and the solvents were evaporated in vacuo. Benzene (60 ml) was added and distilled off in vacuo, yielding a residue. The residue was triturated with ether, filtered and twice recrystallized from isopropanol-ether to give 2.4 g (59.3%) of product, mp, 198°.

reactant | 3-(4-piperidyl)-6-fluoro-1,2-benzisoxazole | 4.95 g | N1CCC(CC1)C1=NOC2=C1C=CC(=C2)F | C12H13FN2O
reactant | allyl bromide | 3.0 g | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 3.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 3-(1-Allyl-4-piperidyl)-6-fluoro-1,2-benzisoxazole hydrochloride | 3.4 g | Cl.C(C=C)N1CCC(CC1)C1=NOC2=C1C=CC(=C2)F | InChI=1S/C15H17FN2O.ClH/c1-2-7-18-8-5-11(6-9-18)15-13-4-3-12(16)10-14(13)19-17-15;/h2-4,10-11H,1,5-9H2;1H
